US06509361B1
Preparation of 1-(4-Fluorophenyl)-5-(4-pyridinyl)-1H-pyrazole-4-carboxamide
A solution of methyl 1-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazole-4-carboxylate (0.9 g, 0.003 mol) in 10 mL of methanol in a sealed tube treated with excess liquid ammonia at low temperature. Then the reaction mixture was heated at 80° C. for 48 hours. Solvent was removed and the residue was triturated with ethyl acetate to give 0.13 g of product as a yellow solid (15% yield), mp 215-216° C.; Anal. Calcd. For C15H11FN4O: C, 63.38; H, 3.93; N, 19.85. Found: C, 63.21; H, 3.98; N, 19.37.

reactant | methyl 1-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazole-4-carboxylate | 0.003 mol, 0.9 g | FC1=CC=C(C=C1)N1N=CC(=C1C1=CC=NC=C1)C(=O)OC | C16H12FN3O2
reactant | ammonia | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 1-(4-Fluorophenyl)-5-(4-pyridinyl)-1H-pyrazole-4-carboxamide | 0.13 g, 15% yield | FC1=CC=C(C=C1)N1N=CC(=C1C1=CC=NC=C1)C(=O)N | C15H11FN4O
